US07816522B2
(21h) [2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester
To a solution of 23.8 g of the crude product of 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]thioacetimidic acid methyl ester in 100 ml of toluene there were added 32 ml of 2,4,6-collidine and 15 ml of methyl chloroformate, and the mixture was stirred at 80° C. for 1 hour under a nitrogen atmosphere. After cooling the reaction mixture, 1N hydrochloric acid was added and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (12.98 g) as a yellow solid.

reactant | 2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]thioacetimidic acid methyl ester | CSC(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)=N | C21H20N4O4S
reactant | 2,4,6-collidine | 32 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methyl chloroformate | 15 ml | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 12.98 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)SC)=O | C23H22N4O6S
